US07037908B2
N-(4fluorobenzyl)-2-(4-fluoro-2-(methylsulfonyl)phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(4-fluoro-2-methanesulfonyl-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (55.56 mg, 0.15 mmol) and 4-fluorobenzylamine (125 mg, 1.0 mmol). The title product was obtained as a white solid (61 mg, 68% yield). 1HNMR (500 MHz, CDCl3) δ: 12.16 (1H, s), 7.87 (1H, dd, J=7.78, 2.59 Hz), 7.53 (1H, t, J 5.50 Hz), 7.48 (1H, td, J=7.86, 2.65 Hz), 7.41 (1H, dd, J=8.54, 4.88 Hz), 7.23 (2H, dd, J=8.55, 5.50 Hz), 7.00 (2H, t, J=8.54 Hz), 4.55 (1H, dd, J=14.95, 6.40 Hz), 4.51 (1H, dd, J=14.95, 6.10 Hz), 3.26 (3H, s), 3.01 (3H, s). HRMS (ESI) calcd for C20H18F2N3O5S (M+H): 450.0935; found: 450.0941.

reactant | 2-(4-fluoro-2-methanesulfonyl-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.15 mmol, 55.56 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=C(C=C1)F)S(=O)(=O)C | C15H15FN2O6S
reactant | 4-fluorobenzylamine | 1.0 mmol, 125 mg | FC1=CC=C(CN)C=C1 | C7H8FN
product | N-(4fluorobenzyl)-2-(4-fluoro-2-(methylsulfonyl)phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | FC1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=C(C=C2)F)S(=O)(=O)C)C=C1 | C20H17F2N3O5S
